US05573746
Example 1. Synthesis of N-2-adamantylglycine
A 600 ml stainless steel Parr reactor, equipped with a stirrer, two inlets, one with a tubing reaching nearly to the bottom of the reactor, and an outlet was used. Into the open reactor there were charged 100 grams of glycine (Aldrich, 99+%), 206.7 grams of 2-adamantanone (Aldrich, 99%), 10 grams of palladium (5%) on charcoal, and 300 grams of glacial acetic acid. The reactor was closed and assembled in the hood with nitrogen and hydrogen sources. The reaction mixture was bubbled with dry nitrogen, to replace the air in the reaction mixture and in the reactor, through the inlet with a tubing reaching nearly to the bottom of the reactor. The nitrogen was turned off and the reactor was pressurized with hydrogen through the other inlet. Under a hydrogen pressure of 725 psig, the reaction mixture was heated to 100° C. and stirred at this temperature for 5 days. Hydrogen was refilled whenever it was necessary. After cooling down to room temperature, the excess hydrogen was vented from the reactor and the reactor was opened. The mixture was filtered by suction to remove the solid Pd/C catalyst. The filtrate was rotavapped to remove the acetic acid and water. The crude product was washed with ether and recrystallized from a dilute aqueous solution. A pure product was obtained after two recrystallization. Elemental analysis: Calculated for C12H17NO2 : C:68.67; H:9.15; N:6.69. FoundL C:68.85; H:9.12; N:6.75. M.P.:255.4° C. (by DSC at 10° C./min. under He).

reactant | glycine | 100 grams | NCC(=O)O | C2H5NO2
reactant | 2-adamantanone | 206.7 grams | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 10 grams | [Pd] | Pd
solvent | acetic acid | 300 grams | C(C)(=O)O | C2H4O2
product | N-2-adamantylglycine | C12C(C3CC(CC(C1)C3)C2)NCC(=O)O | C12H19NO2
